US09388197B2
A.1.4.1. Synthesis of methyl 2-phenyl-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate
A soln. of methyl 2-bromo-3-oxocyclohexanecarboxylate (100 mg, 0.43 mmol) and thiobenzamide (64 mg, 0.47 mmol) in EtOH (2 mL) was stirred at 85° C. overnight. Subsequently, the mixture was quenched with aq. sat. NaHCO3 and extracted with EtOAc. The comb. org. layers were washed with brine, dried over MgSO4, and conc. in vacuo. Purification by means of CC (2-15% EtOAc/Hept) provided a yellow oil.

reactant | methyl 2-bromo-3-oxocyclohexanecarboxylate | 0.43 mmol, 100 mg | BrC1C(CCCC1=O)C(=O)OC | C8H11BrO3
reactant | thiobenzamide | 0.47 mmol, 64 mg | C(C1=CC=CC=C1)(=S)N | C7H7NS
solvent | EtOH | 2 mL | CCO | C2H6O
product | methyl 2-phenyl-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate | C1(=CC=CC=C1)C=1SC2=C(N1)CCCC2C(=O)OC | C15H15NO2S
